US08802688B2
Step 1: 7-(ethoxycarbonyl)quinoline 1-oxide
To a solution of ethyl quinoline-7-carboxylate (1.02 g, 5.05 mmol) in dichloromethane (20 mL) was added peracetic acid (2.13 mL, 10.1 mmol, 32 wt % in acetic acid). The reaction was stirred at room temperature overnight. The reaction was partitioned between water and dichloromethane. The layers were separated and the aqueous was extracted with dichloromethane (4×). The combined organics were washed with water and brine, dried over sodium sulfate, filtered, and concentrated. The solid was concentrated from heptanes and ethyl acetate several times, then dried under vacuum to give the title compound (1.01 g, 92%) as a yellow solid. +ESI (M+H) 218.2; 1H NMR (400 MHz, CDCl3, δ): 9.40 (s, 1 H), 8.65 (d, J=6.05 Hz, 1 H), 8.27 (dd, J=8.58, 1.56 Hz, 1 H), 7.95 (d, J=8.39 Hz, 1 H), 7.82 (d, J=8.58 Hz, 1 H), 7.42 (dd, J=8.49, 6.15 Hz, 1 H), 4.47 (q, J=7.02 Hz, 2 H), 1.45 (t, J=7.1 Hz, 3 H).

reactant | ethyl quinoline-7-carboxylate | 5.05 mmol, 1.02 g | N1=CC=CC2=CC=C(C=C12)C(=O)OCC | C12H11NO2
reactant | peracetic acid | 10.1 mmol, 2.13 mL | C(C)(=O)OO | C2H4O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 7-(ethoxycarbonyl)quinoline 1-oxide | 1.01 g, 92% | C(C)OC(=O)C1=CC=C2C=CC=[N+](C2=C1)[O-] | C12H11NO3
